US04889553
N-(2,6-dichloro-3-methylphenyl)-5-methyl-1-(2-pyrimidinyl)-1,2,4-triazole-3-sulphonamide (Compound C1)
A suspension of sodium hydride (8.7 g) in dry tetrahydrofuran (400 ml) was stirred at 25° C., and N-acetyl-2,6-dichloro-3-methylaniline (50.4 g) was added portionwise. After stirring for 15 minutes, 5-methyl-1-(2-pyrimidinyl)-1,2,4-triazole-3-sulphonyl chloride (30 g), prepared by a method analogous to that of Example A was added over 5 minutes. The mixture was stirred at 25° C. for 18 hours and the solvent was removed in vacuo. The residue was treated with 1M sodium hydroxide solution (500 ml) for 5 minutes with stirring, and was then extracted with ethyl acetate (500 ml). The ethyl acetate layer was re-extracted with 1M sodium hydroxide solution (300 ml). The combined aqueous phases were acidified with concentrated hydrochloric acid and the solid was filtered off. Recrystallisation from acetonitrile gave 38 g of the desired product, mp 214°-216° C.

reactant | sodium hydride | 8.7 g | [H-].[Na+]
reactant | N-acetyl-2,6-dichloro-3-methylaniline | 50.4 g | C(C)(=O)NC1=C(C(=CC=C1Cl)C)Cl | C9H9Cl2NO
reactant | 5-methyl-1-(2-pyrimidinyl)-1,2,4-triazole-3-sulphonyl chloride | 30 g | CC1=NC(=NN1C1=NC=CC=N1)S(=O)(=O)Cl | C7H6ClN5O2S
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | N-(2,6-dichloro-3-methylphenyl)-5-methyl-1-(2-pyrimidinyl)-1,2,4-triazole-3-sulphonamide | 38 g | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1=NN(C(=N1)C)C1=NC=CC=N1 | C14H12Cl2N6O2S
